US06800483B1
CE activity was determined by the spectrophotometric method described above for rabbit CE samples using o-NPA as a substrate. In another assay, activation of CPT-11 was determined by incubating samples of hiCE with either 5 μM or 25 μM CPT-11 in a total volume of 200 μl of 50 mM Hepes pH 7.4 at 37° C. for up to 20 hours. Reactions were terminated by the addition of an equal volume of cold acidified methanol, followed by centrifugation at 100,000×g for 30 minutes. The levels of SN-38 produced in the reaction were quantitated by HPLC.

reactant | o-NPA | CC(=O)OC1=CC=CC=C1[N+](=O)[O-] | C8H7NO4
reactant | CPT-11 | CCC1=C2C=C(C=CC2=NC3=C1CN4C3=CC5=C(C4=O)COC(=O)[C@@]5(CC)O)OC(=O)N6CCC(CC6)N7CCCCC7 | C33H38N4O6
reactant | CPT-11 | 25 μM | CCC1=C2C=C(C=CC2=NC3=C1CN4C3=CC5=C(C4=O)COC(=O)[C@@]5(CC)O)OC(=O)N6CCC(CC6)N7CCCCC7 | C33H38N4O6
reactant | Hepes | 50 mM, pH 7.4 | C1CN(CCN1CCO)CCS(=O)(=O)O | C8H18N2O4S
product | SN-38 | CCC1=C2C=C(C=CC2=NC3=C1CN4C3=CC5=C(C4=O)COC(=O)[C@@]5(CC)O)O | C22H20N2O5
